US05270331
PREPARATION 32--SODIUM N-(2-ETHYLBUTYRYL)GLYCINATE
To a solution of ethyl N-(2-ethylbutyryl)glycinate (33.73 g) in 100 mL of methanol was added 167.6 mL of 1N sodium hydroxide, and the solution stirred for 1.5 hr. Solvents were evaporated in vacuo, and then fresh methanol was added and evaporated to give 32.6 g of a pale yellow oil.

reactant | ethyl N-(2-ethylbutyryl)glycinate | 33.73 g | C(C)C(C(=O)NCC(=O)OCC)CC | C10H19NO3
reactant | sodium hydroxide | 1N, 167.6 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | SODIUM N-(2-ETHYLBUTYRYL)GLYCINATE | 32.6 g | C(C)C(C(=O)NCC(=O)[O-])CC.[Na+] | InChI=1S/C8H15NO3.Na/c1-3-6(4-2)8(12)9-5-7(10)11;/h6H,3-5H2,1-2H3,(H,9,12)(H,10,11);/q;+1/p-1
